US04929741
A solution of 20 g (161 mmol) of 1-[(3-methyl-2-butenyl)oxy)-2-propyne in 200 ml of tetrahydrofuran was treated at -78° under argon with 111 ml of n-butyllithium (1.6M in hexane). The mixture was left to stir at -40° for 30 minutes, again cooled to -78° and a solution of 26.6 g (177 mmol) of 3,4-methylenedioxybenzaldehyde in 150 ml of tetrahydrofuran was then added within 40 minutes. The reaction mixture was stirred at -78° for a further 1 hour, then warmed to room temperature and subsequently treated with 150 ml of saturated ammonium chloride solution. The aqueous phase was extracted twice with ether. The combined organic phases were washed in succession with saturated sodium chloride solution and with water, dried over magnesium sulphate and concentrated. The residue was purified by flash chromatography on 1000 g of silica gel (elution agent methylene chloride/ethyl acetate 9:1). There was obtained 1-hydroxy-4-[(3-methyl-2-butenyl)oxy]-1-[3,4-(methylenedioxy)phenyl]-2-butyne as a yellow oil.

reactant | 1-[(3-methyl-2-butenyl)oxy)-2-propyne | 161 mmol, 20 g | CC(=CCOCC#C)C | C8H12O
reactant | n-butyllithium | 1.6M, 111 ml | C(CCC)[Li]
reactant | 3,4-methylenedioxybenzaldehyde | 177 mmol, 26.6 g | C1OC=2C=C(C=O)C=CC2O1 | C8H6O3
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-hydroxy-4-[(3-methyl-2-butenyl)oxy]-1-[3,4-(methylenedioxy)phenyl]-2-butyne | OC(C#CCOCC=C(C)C)C1=CC2=C(C=C1)OCO2 | C16H18O4
